### PR TITLE
feat(LaplaceRungeLenzVector): prove `angularMomentum_commutation_lrl`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds proofs autoformalised by @Aristotle-Harmonic.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 1]
```diff
@@ -136,14 +136,48 @@ private def constRadiusRegInvCompPosition (ε : ℝˣ) (i : Fin H.d) :=
...
+    angularMomentum_commutation_position]
+  dsimp only [kroneckerDelta]
+  simp only [comp_sub, comp_smul, sub_comp, smul_comp, comp_zero, zero_comp, add_zero,
+    smul_sub, smul_add, smul_smul, comp_add, neg_comp, comp_neg, smul_neg]
+  simp only [Finset.sum_add_distrib, Finset.sum_sub_distrib]
+  simp only [Nat.cast_ite, Nat.cast_one, CharP.cast_eq_zero, mul_ite, mul_one, mul_zero,
+    ite_smul, zero_smul, smul_ite, smul_zero,
+    Finset.sum_ite_eq, Finset.sum_ite_eq', Finset.mem_univ, ↓reduceIte]
+  rw [angularMomentumOperator_antisymm k i, angularMomentumOperator_antisymm k j]
+  simp only [neg_comp, comp_neg, smul_neg, neg_neg]
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: Can all of these simp's be combined?

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 2]
```diff
@@ -136,14 +136,48 @@ private def constRadiusRegInvCompPosition (ε : ℝˣ) (i : Fin H.d) :=
...
+  have ite_comp_right : ∀ (p : Prop) [Decidable p]
+      (A B : 𝓢(Space H.d, ℂ) →L[ℂ] 𝓢(Space H.d, ℂ)),
+      (if p then A else 0).comp B = if p then A.comp B else 0 :=
+    fun p _ A B ↦ by split_ifs <;> simp
+  simp only [ite_comp_right, show ∀ (p : Prop) [Decidable p]
+    (A : 𝓢(Space H.d, ℂ) →L[ℂ] 𝓢(Space H.d, ℂ)),
+    -(if p then A else 0) = if p then -A else 0 from
+    fun p _ A ↦ by split_ifs <;> simp,
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: Maybe best to include this `show` as a `have`, like the above.

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 3]
```diff
@@ -136,14 +136,48 @@ private def constRadiusRegInvCompPosition (ε : ℝˣ) (i : Fin H.d) :=
...
+  rw [angularMomentumOperator_antisymm i k, angularMomentumOperator_antisymm j k]
+  simp only [neg_comp, comp_neg, smul_neg, neg_neg, angularMomentumOperator_eq_zero, zero_comp]
+  split_ifs with hik hjk <;>
+    simp_all only [smul_zero, sub_zero, zero_sub, zero_smul, mul_zero, zero_mul,
+      Finset.sum_const_zero, add_zero, sub_self, neg_zero, neg_neg,
+      ← Finset.smul_sum, angularMomentumOperator_eq_zero, zero_comp]
+  all_goals try simp only [smul_comm (H.m * H.k) (Complex.I * ↑↑ℏ)]
+  all_goals (try (conv_lhs => rw [show
+    2⁻¹ * Complex.I * ↑↑ℏ * (↑H.d - 1) * (Complex.I * ↑↑ℏ) =
+    Complex.I * ↑↑ℏ * (2⁻¹ * Complex.I * ↑↑ℏ * (↑H.d - 1)) from by ring]))
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: Is this used on more then one goal? If not then `all_goals` may be a bit overkill

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean (hunk 1 above)
Comment (pitmonticone) [reply PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: Sure, I just didn't want to touch it at all 🤣

**Comment by pitmonticone** [comment]
Submitted your review comments to @Aristotle-Harmonic and it should have resolved them all.

**Comment by jstoobysmith** [comment]
The build here emits a bunch of warnings of the form

```
Hint: Omit it from the simp argument list
```

It is also possible to combine some of the `simp`s without breaking things

**Comment by pitmonticone** [comment]
The latest push removes all unused simp arguments — the build should now be warning-free.

Regarding combining the simps: we tried several combinations but the `simp only` calls before the `rw [angularMomentumOperator_antisymm k i, ...]` cannot be combined further without changing the intermediate goal state and breaking the `rw` (the pattern `𝐋[k,i]` is no longer present after the combined simp simplifies too aggressively). The current split is the minimal one that keeps the proof working.

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 4]
```diff
@@ -136,14 +136,45 @@ private def constRadiusRegInvCompPosition (ε : ℝˣ) (i : Fin H.d) :=
 -/
 
 /-- `⁅𝐋ᵢⱼ, 𝐀(ε)ₖ⁆ = iℏ(δᵢₖ𝐀(ε)ⱼ - δⱼₖ𝐀(ε)ᵢ)` -/
-@[sorryful]
 lemma angularMomentum_commutation_lrl (ε : ℝˣ) (i j k : Fin H.d) :
     ⁅𝐋[i,j], H.lrlOperator ε k⁆ = (Complex.I * ℏ * δ[i,k]) • H.lrlOperator ε j
     - (Complex.I * ℏ * δ[j,k]) • H.lrlOperator ε i := by
-  sorry
```
Comment (adomasbaliuka) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean]: How about this (I didn't manage to combine the consecutive `simp`s without breaking it)

```suggestion
/-- `⁅𝐋ᵢⱼ, 𝐀(ε)ₖ⁆ = iℏ(δᵢₖ𝐀(ε)ⱼ - δⱼₖ𝐀(ε)ᵢ)` -/
lemma angularMomentum_commutation_lrl (ε : ℝˣ) (i j k : Fin H.d) :
    ⁅𝐋[i,j], H.lrlOperator ε k⁆ = (Complex.I * ℏ * δ[i,k]) • H.lrlOperator ε j
    - (Complex.I * ℏ * δ[j,k]) • H.lrlOperator ε i := by
  simp only [lrlOperator_eq, lie_sub, lie_add, lie_leibniz, angularMomentum_commutation_momentumSqr,
    angularMomentum_commutation_position, angularMomentum_commutation_momentum, lie_sum, lie_smul,
    angularMomentum_commutation_radiusRegPow]
  simp only [comp_zero, smul_sub, sub_comp, smul_comp, zero_add, comp_sub, comp_smul,
    Finset.sum_add_distrib, Finset.sum_sub_distrib, ← Finset.smul_sum, sum_smul, zero_comp,
    add_zero]
  simp only [sub_add_sub_cancel, sub_self, zero_comp, add_zero, ← Nat.cast_smul_eq_nsmul ℂ, smul_smul]
  ext f x
  simp only [ContinuousLinearMap.sub_apply, ContinuousLinearMap.add_apply,
    ContinuousLinearMap.smul_apply, SchwartzMap.sub_apply, SchwartzMap.add_apply,
    SchwartzMap.smul_apply, smul_eq_mul, real_smul, ofReal_mul]
  ring
```

File: PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean [hunk 5]
```diff
@@ -136,14 +136,45 @@ private def constRadiusRegInvCompPosition (ε : ℝˣ) (i : Fin H.d) :=
...
+  simp only [neg_comp, smul_neg, neg_neg]
+  split_ifs with hik hjk <;>
+    simp_all only [smul_zero, sub_zero, zero_sub, zero_smul, zero_mul,
+      Finset.sum_const_zero, add_zero, sub_self, neg_zero, neg_neg,
+      ← Finset.smul_sum, angularMomentumOperator_eq_zero, zero_comp] <;>
+    (try simp only [smul_comm (H.m * H.k) (Complex.I * ↑↑ℏ)]) <;>
+    (try conv_lhs => rw [show
+      2⁻¹ * Complex.I * ↑↑ℏ * (↑H.d - 1) * (Complex.I * ↑↑ℏ) =
+      Complex.I * ↑↑ℏ * (2⁻¹ * Complex.I * ↑↑ℏ * (↑H.d - 1)) from by ring]) <;>
+    abel
```
Comment (adomasbaliuka) [inline PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean:175]: how about this (I couldn't further combine the `simp`s without breaking it)

```suggestion
/-- `⁅𝐋ᵢⱼ, 𝐀(ε)ₖ⁆ = iℏ(δᵢₖ𝐀(ε)ⱼ - δⱼₖ𝐀(ε)ᵢ)` -/
lemma angularMomentum_commutation_lrl (ε : ℝˣ) (i j k : Fin H.d) :
    ⁅𝐋[i,j], H.lrlOperator ε k⁆ = (Complex.I * ℏ * δ[i,k]) • H.lrlOperator ε j
    - (Complex.I * ℏ * δ[j,k]) • H.lrlOperator ε i := by
  simp only [lrlOperator_eq, lie_sub, lie_add, lie_leibniz, angularMomentum_commutation_momentumSqr,
    angularMomentum_commutation_position, angularMomentum_commutation_momentum, lie_sum, lie_smul,
    angularMomentum_commutation_radiusRegPow]
  simp only [comp_zero, smul_sub, sub_comp, smul_comp, zero_add, comp_sub, comp_smul,
    Finset.sum_add_distrib, Finset.sum_sub_distrib, ← Finset.smul_sum, sum_smul, zero_comp,
    add_zero]
  simp only [sub_add_sub_cancel, sub_self, zero_comp, add_zero, ← Nat.cast_smul_eq_nsmul ℂ, smul_smul]
  ext f x
  simp only [ContinuousLinearMap.sub_apply, ContinuousLinearMap.add_apply,
    ContinuousLinearMap.smul_apply, SchwartzMap.sub_apply, SchwartzMap.add_apply,
    SchwartzMap.smul_apply, smul_eq_mul, real_smul, ofReal_mul]
  ring
```

Comment (jstoobysmith) [reply PhysLean/QuantumMechanics/DDimensions/Hydrogen/LaplaceRungeLenzVector.lean:175]: This looks good to me! Will give @pitmonticone chance to comment here. This PR currently has a merge conflict (since ./PhysLean got renamed to ./PhysLib), which will also need addressing (maybe easier to open a new PR).

**Comment by adomasbaliuka** [comment]
Is anyone working on getting the main results for hydrogen? E.g. Spectrum?

Apparently, there are some derivations of the hydrogen spectrum using the Laplace-Runge-Lenz vector (I've never seen such a derivation). Is that the planned approach and the reason why LRL is being developed here?

**Comment by jstoobysmith** [comment]
@adomasbaliuka this work is been done by @gloges who might be able to provide you more details. Maybe worth taking the conversation to the Zulip rather than here though
